US05254595
Following the procedure described in Example 27, but starting from ethyl 4-(2,3-epoxypropoxy)indole-2-carboxylate (25.1 g), obtained from ethyl 4-hydroxyindole-2-carboxylate and epichlorohydrin according to the method of Belgian Patent 739,545, and 2-aminotetralin (14.8 g) in ethanol (120 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-ethoxycarbonylindol-4-yloxy)propanamine hydrochloride is obtained ((i): R=H, Ar=radical 15 wherein Z is ethoxy, and the chain is attached to position 2 of the tetralin moiety) which is crystallized from a mixture ethanol/isopropanol 2/1.

reactant | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(2-ethoxycarbonylindol-4-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2C=C(NC2=CC=C1)C(=O)OCC)O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-aminotetralin | 14.8 g | NC1CC2=CC=CC=C2CC1 | C10H13N
